US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-8-methylquinazoline-2,4(1H,3H)-dione (470 mg, 1.36 mmol) and Cs2CO3 (1.33 g, 4.08 mmol) in DMF (8 mL) was treated with iodomethane (0.85 mL, 13.6 mmol) and stirred at room temperature for 1.5 h. The mixture was diluted with EtOAc, washed sequentially with water and two portions of 10% aqueous LiCl. The combined aqueous phases were extracted with EtOAc. The combined organic phases were washed sequentially with 10% aqueous LiCl and water, dried and concentrated to give impure 3-(3-bromo-2-methylphenyl)-1,8-dimethylquinazoline-2,4(1H,3H)-dione as a white solid (510 mg), used without further purification. Mass spectrum m/z 359, 361 (M+H)+.

reactant | 3-(3-bromo-2-methylphenyl)-8-methylquinazoline-2,4(1H,3H)-dione | 1.36 mmol, 470 mg | BrC=1C(=C(C=CC1)N1C(NC2=C(C=CC=C2C1=O)C)=O)C | C16H13BrN2O2
reactant | Cs2CO3 | 4.08 mmol, 1.33 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 13.6 mmol, 0.85 mL | IC | CH3I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-bromo-2-methylphenyl)-1,8-dimethylquinazoline-2,4(1H,3H)-dione | 510 mg | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)C)C)=O)C | C17H15BrN2O2
